US07709503B2
Intermediate 40: 2,6-Dichloro-N-(2-morpholin-4-yl-ethyl)-isonicotinamide
HATU (989 mg, 2.6 mmol), HOAT (354 mg, 2.6 mmol) and DIEA (907 μl, 5.21 mmol) were added to a stirred solution of 2,6-dichloroisonicotinic acid (500 mg, 2.60 mmol) in anhydrous DMA (4 ml). The mixture was stirred for 10 minutes after which 2-morpholin-4-yl-ethylamine (420 μl, 2.86 mmol) was added. The mixture was stirred at room temperature for 12 h and the mixture was partitioned between EtOAc and water. The EtOAc layer was washed well with water, dried over sodium sulphate and concentrated in vacuo to give the title compound as an oil (830 mg).

reactant | HATU | 2.6 mmol, 989 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAT | 2.6 mmol, 354 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIEA | 5.21 mmol, 907 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,6-dichloroisonicotinic acid | 2.60 mmol, 500 mg | ClC=1C=C(C(=O)O)C=C(N1)Cl | C6H3Cl2NO2
reactant | 2-morpholin-4-yl-ethylamine | 2.86 mmol, 420 μl | N1(CCOCC1)CCN | C6H14N2O
solvent | DMA | 4 ml | CC(=O)N(C)C | C4H9NO
product | 2,6-Dichloro-N-(2-morpholin-4-yl-ethyl)-isonicotinamide | 830 mg | ClC=1C=C(C(=O)NCCN2CCOCC2)C=C(N1)Cl | C12H15Cl2N3O2
